### PR TITLE
Upstream results in Manifold/Manifold and Manifold/Analytic

### PR DESCRIPTION
**Pull request by bwangpj**
Upstream results in Manifold/Manifold and Manifold/Analytic. There are also a lot of very minor changes to many files due to bumping mathlib.

### CODE REVIEW

File: Ray/Dynamics/Bottcher.lean [hunk 1]
```diff
@@ -176,7 +176,7 @@ theorem Super.bottcher_eqn (s : Super f d a) [OnePreimage s] :
     intro c z m
     suffices e : ∀ᶠ w in 𝓝 a, s.bottcher c (f c w) = s.bottcher c w ^ d by
       refine (ContMDiffOnNhd.eq_of_locally_eq ?_ (fun z m ↦
-        (s.bottcher_mAnalyticOn (c, z) m).along_snd.pow) (s.post_slice_connected c).isPreconnected
+        ((contMDiff_pow _).contMDiffAt.comp _ (s.bottcher_mAnalyticOn (c, z) m).along_snd)) (s.post_slice_connected c).isPreconnected
```
Comment (girving) [inline Ray/Dynamics/Bottcher.lean:179]: Please make `ContMDiffAt.pow` and use it, to be more similar.

File: Ray/Dynamics/Grow.lean [hunk 2]
```diff
@@ -373,7 +374,7 @@ theorem GrowOpen.point (g : GrowOpen s c p r) [OnePreimage s] {x : ℂ} (ax : 
   have pt : Tendsto (fun p : ℂ × ℂ ↦ (p.1, p.2 ^ d ^ n)) (𝓝 (c, x)) (𝓝 (c, x ^ d ^ n)) :=
     continuousAt_fst.prodMk (continuousAt_snd.pow _)
   have ian : ContMDiffAt II I ω (uncurry fun e y : ℂ ↦ i e (y ^ d ^ n)) (c, x) :=
-    ia.comp₂_of_eq contMDiffAt_fst contMDiffAt_snd.pow rfl
+    ia.comp₂_of_eq contMDiffAt_fst ((contMDiff_pow _).contMDiffAt.comp _ contMDiffAt_snd) rfl
```
Comment (girving) [inline Ray/Dynamics/Grow.lean:377]: Make and use `ContMDiffAt.pow`.

File: Ray/Hartogs/Hartogs.lean [hunk 3]
```diff
@@ -753,7 +753,11 @@ theorem unevenSeries_strong_bound' [CompleteSpace E] [SecondCountableTopology E]
   by_cases kn : k ≤ n
   · specialize gb zs k kn
     calc ‖unevenSeries u z k‖
-      _ = s⁻¹ ^ k * (s ^ k * ‖unevenSeries u z k‖) := by ring_nf; field_simp [(pow_pos sp _).ne']
+      _ = s⁻¹ ^ k * (s ^ k * ‖unevenSeries u z k‖) := by
+        ring_nf; field_simp [(pow_pos sp _).ne']
+        simp only [one_div, inv_pow, mul_assoc]
+        rw [mul_inv_cancel₀ (pow_ne_zero k (ne_of_lt sp).symm)]
+        simp
```
Comment (girving) [inline Ray/Hartogs/Hartogs.lean:760]: Hmm, do you know why `field_simp` no longer closes the goal here?

File: Ray/Hartogs/Subharmonic.lean [hunk 4]
```diff
@@ -224,13 +225,15 @@ theorem AnalyticOnNhd.circle_mean_eq [CompleteSpace H] {f : ℂ → H} {c : ℂ}
...
     field_simp [circleMap_ne_center rp.ne'] at h
-    rw [← smul_smul, IsUnit.smul_left_cancel (Ne.isUnit Complex.I_ne_zero)] at h
+    simp only [intervalIntegral.integral_smul] at h
+    rw [mul_assoc, ← smul_smul, IsUnit.smul_left_cancel (Ne.isUnit Complex.I_ne_zero)] at h
     rw [intervalIntegral.integral_of_le Real.two_pi_pos.le] at h
     rw [average_eq, itau, h]
     simp only [MeasurableSet.univ, measureReal_restrict_apply, Set.univ_inter, Real.volume_real_Ioc,
       sub_zero]
     rw [max_eq_left Real.two_pi_pos.le]
     rw [← smul_assoc, Complex.real_smul]; field_simp [Real.pi_ne_zero]
```
Comment (girving) [inline Ray/Hartogs/Subharmonic.lean]: Break the rw and field_simp onto different lines.

File: Ray/Hartogs/Subharmonic.lean [hunk 5]
```diff
@@ -296,7 +299,11 @@ theorem AnalyticOnNhd.maxLogAbsSubharmonicOn {f : ℂ → ℂ} {s : Set ℂ} (fa
       have ha : AnalyticAt ℂ h c := by
         rw [← hh]
         apply (analyticAt_const.mul (fa c (interior_subset cs))).clog
+        simp only [Pi.mul_apply]
         field_simp [norm_ne_zero_iff.mp anz]
+        exact Complex.ofReal_mem_slitPlane.mpr
+          (norm_pos_iff.mpr (ne_zero_of_norm_ne_zero anz))
+
```
Comment (girving) [inline Ray/Hartogs/Subharmonic.lean]: Remove blank line.

File: Ray/Manifold/Analytic.lean [hunk 6]
```diff
@@ -36,6 +36,8 @@ variable {O : Type} {K : ModelWithCorners 𝕜 G C} [TopologicalSpace O]
 variable {P : Type} {L : ModelWithCorners 𝕜 H D} [TopologicalSpace P]
 variable [ChartedSpace A M] [ChartedSpace B N] [ChartedSpace C O] [ChartedSpace D P]
 
+-- begin #28286
+
```
Comment (girving) [inline Ray/Manifold/Analytic.lean]: What are these lines for?

File: Ray/Manifold/Analytic.lean [hunk 7]
```diff
@@ -66,63 +68,7 @@ theorem mAnalytic_iff_of_boundaryless [I.Boundaryless] [IsManifold I ω M] [IsMa
...
-
-/-- `ContMDiffAt.comp₂`, with a separate argument for point equality -/
-theorem ContMDiffAt.comp₂_of_eq [IsManifold I ω M] [IsManifold J ω N] [IsManifold K ω O]
-    [IsManifold L ω P] {h : N × M → P} {f : O → N} {g : O → M} {x : O} {y : N × M}
-    (ha : ContMDiffAt (J.prod I) L ω h y) (fa : ContMDiffAt K J ω f x)
-    (ga : ContMDiffAt K I ω g x) (e : (f x, g x) = y) :
-    ContMDiffAt K L ω (fun x ↦ h (f x, g x)) x := by
-  rw [← e] at ha
-  exact ha.comp₂ fa ga
+-- end #28286
```
Comment (girving) [inline Ray/Manifold/Analytic.lean]: That PR hasn't landed yet (for convenience, https://github.com/leanprover-community/mathlib4/pull/28286). Is this PR to `ray` not mergeable until the Mathlib PR has landed

**Review by girving — COMMENTED** [review]
Looks very good! I added a few small comments.

File: Ray/Manifold/Analytic.lean (hunk 7 above)
Comment (bwangpj) [reply Ray/Manifold/Analytic.lean]: This PR is mergeable before the mathlib PR, the comments are just to note that the results here are being upstreamed via [#28286](https://github.com/leanprover-community/mathlib4/pull/28286)

File: Ray/Hartogs/Hartogs.lean (hunk 3 above)
Comment (bwangpj) [reply Ray/Hartogs/Hartogs.lean:760]: There was a rewrite of `field_simp` in [#28658](https://github.com/leanprover-community/mathlib4/pull/28658), but I'm not 100% sure about the details. It seems the main reason is that `field_simp` no longer subsumes `simp`.

File: Ray/Dynamics/Bottcher.lean (hunk 1 above)
Comment (bwangpj) [reply Ray/Dynamics/Bottcher.lean:179]: Done! This is [#29459](https://github.com/leanprover-community/mathlib4/pull/29459).

**Comment by girving** [comment]
Thank you!

File: Ray/Hartogs/Hartogs.lean (hunk 3 above)
Comment (grunweg) [reply Ray/Hartogs/Hartogs.lean:760]: You can write `simp [field]` to imitate the old behaviour.
(I'm not sure if that's preferable long-term, but I want you to be aware of this.)

File: Ray/Hartogs/Subharmonic.lean [hunk 8]
```diff
@@ -147,7 +147,8 @@ theorem HarmonicOn.const (a : E) {s : Set ℂ} : HarmonicOn (fun _ ↦ a) s :=
       intro c r _ _
       rw [average_eq]
       simp [← smul_assoc, smul_eq_mul]
-      field_simp [NiceVolume.itau.real_pos.ne'] }
+      field_simp [NiceVolume.itau.real_pos.ne']
```
Comment (grunweg) [inline Ray/Hartogs/Subharmonic.lean:150]: Pre-existing: the simp on line 149 is non-terminal. (So squeezing is an option, as could be combining these calls.)

File: Ray/Misc/Bounds.lean [hunk 9]
```diff
@@ -394,7 +394,7 @@ theorem log_add (a b : ℝ) (a0 : 0 < a) (ab0 : 0 < a + b) :
 /-- `log (abs (a + b)) = log (abs a) + log (abs (1 + b/a))` -/
 theorem log_abs_add (a b : ℂ) (a0 : a ≠ 0) (ab0 : a + b ≠ 0) :
     Real.log (‖a + b‖) = Real.log (‖a‖) + Real.log (‖1 + b/a‖) := by
-  have d0 : 1 + b/a ≠ 0 := by field_simp [a0, ab0]
+  have d0 : 1 + b/a ≠ 0 := by field_simp [a0, ab0]; exact div_ne_zero ab0 a0
```
Comment (grunweg) [inline Ray/Misc/Bounds.lean:397]: Does this work? (I'm also confused why you need the new argument: what does the goal look like after the field_simp call? You know both a + b and a are non-zero from the context...)
```suggestion
 have d0 : 1 + b/a ≠ 0 := by field_simp [a0, ab0, div_ne_zero ab0 a0]
```

Also: do you still need to provide `a0` and `ab0` to field_simp? I would thing you don't need to any more.

**Review by grunweg — COMMENTED** [review]
Three comments related to field_simp: I'd like to understand why things had to change/help you make the best use of it.
